US07842688B2
c) 1-(4-Methoxybut-1-ynyl)-2-nitrobenzene
A solution of 2.9 g of 4-(2-nitrophenyl)but-3-yn-1-ol in 750 ml of acetonitrile is admixed at room temperature with 17.5 g of silver oxide and 9.4 ml of methyl iodide and stirred at 50° C. over 70 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.34 (1:2 EtOAc-heptane); Rt=4.17.

reactant | 4-(2-nitrophenyl)but-3-yn-1-ol | 2.9 g | [N+](=O)([O-])C1=C(C=CC=C1)C#CCCO | C10H9NO3
reactant | methyl iodide | 9.4 ml | CI | CH3I
solvent | acetonitrile | 750 ml | C(C)#N | C2H3N
catalyst | silver oxide | 17.5 g | [Ag]=O
product | 1-(4-Methoxybut-1-ynyl)-2-nitrobenzene | COCCC#CC1=C(C=CC=C1)[N+](=O)[O-] | C11H11NO3
